US09126950B2
To a solution of tert-butyl (3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate (0.240 g) in DCM (5.0 mL) TFA (2.0 mL) was added at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes followed by stirring at room temperature for 30 minutes. The reaction was monitored by TLC using ethyl acetate:hexane (7:3) as mobile phase. After completion of the reaction, the mixture was quenched in water and basified with saturated sodium bicarbonate solution. Product was extracted into DCM. The organic layer was washed with brine and dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. The obtained solid was purified by trituration with ether to give 0.175 g of 5-((4-((3-aminophenyl)amino)-5-fluoropyrimidin-2-yl)amino)-2-(2-methoxyethoxy)phenol. 1H NMR: DMSO-d6 (400 MHz): 3.282 (s, 3H), 3.617-3.640 (t, 2H, J=4.4), 4.004-4.040 (t, 2H, J=4.4), 4.992 (s, 2H), 6.306-6.316 (d, 1H, J=3.2), 6.772-6.793 (d, 1H, J=8.4), 6.952-7.042 (m, 3H), 7.095 (s, 1H), 7.187 (s, 1H), 8.004-8.013 (d, 1H, J=3.6), 8.811 (s, 1H), 8.861 (s, 1H), 9.001 (s, 1H).

reactant | tert-butyl (3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate | 0.240 g | FC=1C(=NC(=NC1)NC1=CC(=C(C=C1)OCCOC)O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C24H28FN5O5
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-((4-((3-aminophenyl)amino)-5-fluoropyrimidin-2-yl)amino)-2-(2-methoxyethoxy)phenol | 0.175 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC(=C(C1)O)OCCOC | C19H20FN5O3
